US07452901B2
A mixture of [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester (27 mg, 0.066 mmol), LiOH (200 mg), MeOH (3 mL) and water (1 mL) was stirred at 70° C. for 4 h. After cooling, the reaction solution was acidified with 2 N HCl, mixed with brine, and extracted with ethyl acetate/acetonitrle. The organic extract was concentrated and the residue was purified by preparative reverse-phase HPLC (acetonitrile and 0.1% aqueous CF3COOH), affording [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid monoethyl ester (7 mg, 28%); 1H NMR (300 MHz, CD3OD) δ 1.28 (t, J=6.9, 3H), 1.7-1.9 (m, 5H), 2.20 (s, 3H), 2.2-2.3 (m, 2H), 3.41 (d, J=6.6 Hz, 2H), 3.80 (s, 3H), 4.02 (m, 2H), 5.2-5.3 (m, 3H).

reactant | [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester | 0.066 mmol, 27 mg | C(C)OP(OCC)(=O)CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C20H29O7P
reactant | LiOH | 200 mg | [Li+].[OH-]
reactant | MeOH | 3 mL | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | water | 1 mL | O | H2O
product | [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid monoethyl ester | 7 mg, 28% | C(C)OP(O)(=O)CCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C18H25O7P
